US04206309
1-(2-Hydroxypropyl)-3-(2-vinyloxyethyl)-5,5-dimethylhydantoin
297 g (1.5 mols) of 3-(2-vinyloxyethyl)-5,5-dimethylhydantoin, prepared as described in Example 1, 87 g (1.5 mols) of propylene oxide, 7.5 g of lithium chloride and 750 ml of dimethylformamide are allowed to react for 4 hours and 30 minutes at 90°-112° C. A further 83.5 g (1.44 mols) of propylene oxide are then added dropwise in the course of 3 hours and 30 minutes at 112°-113° C. and the mixture is left to react for a further 15 minutes. It is then concentrated on a rotary evaporator at 80° C. under vacuum from a waterpump and dried to constant weight at 80° C. and 13.3 Pa. 382 g (99.6% of theory) of a brown, clear, viscous crude product are obtained and are purified by distillation. 347.7 g (90.4 g) of a clear, colourless distillate boiling at 149°-152° C./13.3 Pa are obtained.

reactant | 3-(2-vinyloxyethyl)-5,5-dimethylhydantoin | 1.5 mols, 297 g | C(=C)OCCN1C(NC(C1=O)(C)C)=O | C9H14N2O3
reactant | propylene oxide | 1.5 mols, 87 g | C1C(C)O1 | C3H6O
reactant | lithium chloride | 7.5 g | [Cl-].[Li+]
reactant | propylene oxide | 1.44 mols, 83.5 g | C1C(C)O1 | C3H6O
solvent | dimethylformamide | 750 ml | CN(C=O)C | C3H7NO
product | 1-(2-Hydroxypropyl)-3-(2-vinyloxyethyl)-5,5-dimethylhydantoin | OC(CN1C(=O)N(C(=O)C1(C)C)CCOC=C)C | C12H20N2O4
